US08222286B2
To a solution of (S)-2-tert-butoxycarbonylamino-3-(3′-chloro-biphenyl-4-yl)-propionic acid (12.9 g, 34.3 mmol) in DMF (130 mL) were added benzyl bromide (8.16 mL, 68.6 mmol) and NaHCO3 (5.77 g, 68.6 mmol). After stirred at room temperature overnight, the reaction mixture was diluted with EtOAc. The mixture was washed with H2O and brine, dried over Na2SO4, and concentrated under reduced pressure. The obtained residue was treated with 4M HCl in dioxane (30 mL) and stirred for 2 hours. The reaction mixture was concentrated and the resulted residue was rinsed with iPr2O to give (S)-2-amino-3-(3′-chloro-biphenyl-4-yl)-propionic acid benzyl ester (11.2 g). 1H NMR (400 MHz, DMSO-d6) δ 3.14 (dd, 1H, J=7.7, 12.0 Hz), 3.27 (dd, 1H, J=5.9, 12.0 Hz), 4.38 (dd, 1H, J=5.9, 7.7 Hz), 5.15 (s, 2H), 7.23-7.27 (m, 2H), 7.30-7.34 (m, 5H), 7.42-7.45 (m, 1H), 7.51 (dd, 1H, J=7.6, 7.6 Hz), 7.61-7.66 (m, 3H), 7.69 (dd, 1H, J=1.8, 1.8 Hz), 8.64 (bs, 2H); MS: m/z (MH+) 366.

reactant | (S)-2-tert-butoxycarbonylamino-3-(3′-chloro-biphenyl-4-yl)-propionic acid | 34.3 mmol, 12.9 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl | C20H22ClNO4
reactant | benzyl bromide | 68.6 mmol, 8.16 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaHCO3 | 68.6 mmol, 5.77 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-amino-3-(3′-chloro-biphenyl-4-yl)-propionic acid benzyl ester | 11.2 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)=O | C22H20ClNO2
